US07265144B2
To a solution of 4-fluorobenzonitrile (5.00 g, 41.3 mmol) and acetonitrile (4.35 mL, 82.5 mmol) in toluene (100 mL) was added potassium tert-butoxide (13.9 g, 124 mmol). The mixture was stirred for 24 h, and then quenched by slow addition of aqueous sodium bicarbonate. The resulting suspension was extracted with dichloromethane (3×50 mL). The organic solution was washed with water, dried (Na2SO4), and concentrated under reduced pressure. The residue was triturated with EtOH/Et2O to afford 3-amino-3-(4-fluorophenyl)acrylonitrile (6.20 g, 93%) as a white solid. 1H NMR (300 MHz, acetone-d6) δ 4.23 (s, 1H), 6.20 (s, 2H), 7.22 (ddd, 2H), 7.71 (m, 2H).

reactant | 4-fluorobenzonitrile | 41.3 mmol, 5.00 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | acetonitrile | 82.5 mmol, 4.35 mL | C(C)#N | C2H3N
reactant | potassium tert-butoxide | 124 mmol, 13.9 g | CC(C)([O-])C.[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-amino-3-(4-fluorophenyl)acrylonitrile | 6.20 g, 93% | NC(=CC#N)C1=CC=C(C=C1)F | C9H7FN2
